US04185023
In spite of its already high degree of purity, the direct mixing of the crude o-benzoyl-benzoic acid with hot concentrated sulfuric acid gives a strongly colored anthraquinone contaminated with decomposition products. The crude acid is therefore esterified with methanol, and the methyl ester separated from the by-products through a distillation. The esterification may be effected in the conventional manner in the presence of acid catalysts such as hydrochloric, sulfuric or p-toluenesulfonic acids, or alternatively without catalysts under pressure at temperatures above 200° C. The pure o-benzoyl-benzoic acid methyl ester distills off in the range 177°-181° C. under a pressure of 8 Torr. It solidifies to colorless crystals with a melting point of 52.5° C.

reactant | o-benzoyl-benzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
